US20010003121A1
2-Amino-6-chloro-N-(2-[tricyclo[3.3.1.13,7]dec-1-yl]ethyl)-benzamide
Prepared according to the method of Example 14 from 1-adamantaneethylamine hydrochloride (CN 26482-53-1) (0.105 g) and 2-amino-6-chlorobenzoic acid (0.132 g) and purified by supercritical fluid chromatography eluting with CO2 in ethanol to give the title compound, contaminated with 0.35 mol equivalents of imidazole, as a white solid (0.046 g).

reactant | 1-adamantaneethylamine hydrochloride | 0.105 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCN
reactant | 2-amino-6-chlorobenzoic acid | 0.132 g | NC1=C(C(=O)O)C(=CC=C1)Cl | C7H6ClNO2
product | 2-Amino-6-chloro-N-(2-[tricyclo[3.3.1.13,7]dec-1-yl]ethyl)-benzamide | NC1=C(C(=O)NCCC23CC4CC(CC(C2)C4)C3)C(=CC=C1)Cl | C19H25ClN2O
